US04699905
α-{3(S)-Benzyl-6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid (Compound No. 17)
630 mg of t-butyl α-{3(S)-benzyl-6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetate (isomer B) synthesized as described in Example 33 was subjected to de-t-butylation with trifluoroacetic acid in the same manner as described in Example 3, to give 438 mg of the title compound as an amorphous solid.

reactant | t-butyl α-{3(S)-benzyl-6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetate | 630 mg | C(C1=CC=CC=C1)[C@H]1CSC[C@@H](C(N1CC(=O)OC(C)(C)C)=O)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC | C30H40N2O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | α-{3(S)-Benzyl-6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid | 438 mg | C(C1=CC=CC=C1)[C@H]1CSC[C@@H](C(N1CC(=O)O)=O)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC | C26H32N2O5S
